US04892578
This compound was prepared in a manner analogous to that of Example 1, Step C, using 2.0 grams (0.0067 mole) of 2-[(4-amino-2-bromophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone and 1.0 gram (0.0067 mole) of phthalic anhydride in 50 ml of tetrahydrofuran. The reaction mixture was concentrated under reduced pressure to a residual solid. The solid was recrystallized from ethyl acetate-hexane to yield 2.8 grams of 2-[[2-bromo-4-[(2-carboxyphenyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone, m.p. 177° C., dec.

reactant | 2-[(4-amino-2-bromophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.0067 mole, 2.0 grams | NC1=CC(=C(C=C1)CN1OCC(C1=O)(C)C)Br | C12H15BrN2O2
reactant | phthalic anhydride | 0.0067 mole, 1.0 gram | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[[2-bromo-4-[(2-carboxyphenyl)carbonylamino]phenyl]methyl]-4,4-dimethyl-3-isoxazolidinone | 2.8 grams | BrC1=C(C=CC(=C1)NC(=O)C1=C(C=CC=C1)C(=O)O)CN1OCC(C1=O)(C)C | C20H19BrN2O5
